US08349880B2
Step I (1): Dichloromethane (50 mL) was added to a flask charged with 3-methoxy-4-(3-methyl-1,2,4-oxadiazol-5-yl)aniline (1.2 g, 5.85 mmol, N. Smith et. al PCT Publication WO 2003/077918) and 1,1′-thiocarbonyldipyridin-2(1H)-one (1.36 g, 5.85 mmol). The resulting mixture was stirred for 24 h at rt. The crude reaction mixture was concentrated and the crude products were purified using silica gel chromatography (20-50% EtOAc/hexane) linear gradient to afford 5-(4-isothiocyanato-2-methoxyphenyl)-3-methyl-1,2,4-oxadiazole (1.28 g, 5.18 mmol, 89% yield). LC-MS (M+H)+ 248.2.

reactant | 3-methoxy-4-(3-methyl-1,2,4-oxadiazol-5-yl)aniline | 5.85 mmol, 1.2 g | COC=1C=C(N)C=CC1C1=NC(=NO1)C | C10H11N3O2
reactant | 1,1′-thiocarbonyldipyridin-2(1H)-one | 5.85 mmol, 1.36 g | C(=S)(N1C(C=CC=C1)=O)N1C(C=CC=C1)=O | C11H8N2O2S
solvent | Dichloromethane | 50 mL | ClCCl | CH2Cl2
product | 5-(4-isothiocyanato-2-methoxyphenyl)-3-methyl-1,2,4-oxadiazole | 5.18 mmol, 1.28 g, 89% yield | N(=C=S)C1=CC(=C(C=C1)C1=NC(=NO1)C)OC | C11H9N3O2S
